US09259470B2
(E)-3-(4-Chloro-3-fluorophenyl)acrylic acid (17.3 g, 86.24 mmol) was suspended in ethanol (200 mL), and chlorotrimethylsilane (24.00 mL, 189.7 mmol) was added. The mixture was then agitated for 20 hours and evaporated, to give (E)-ethyl 3-(4-chloro-3-fluorophenyl)acrylate (19.65 g, 85.94 mmol, 99.65% yield) as an oil, which solidified later.

reactant | (E)-3-(4-Chloro-3-fluorophenyl)acrylic acid | 86.24 mmol, 17.3 g | ClC1=C(C=C(C=C1)/C=C/C(=O)O)F | C9H6ClFO2
reactant | chlorotrimethylsilane | 189.7 mmol, 24.00 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | ethanol | 200 mL | C(C)O | C2H6O
product | (E)-ethyl 3-(4-chloro-3-fluorophenyl)acrylate | 85.94 mmol, 19.65 g, 99.65% yield | ClC1=C(C=C(C=C1)/C=C/C(=O)OCC)F | C11H10ClFO2
